US05597826
7-(3-Nitrobenzamido)-1-(4-methyl-1-piperazinyl)-naphthalene
The title product was prepared following the procedure of example 3 from 7- amino-1-(4-methylol-piperazinyl)-naphthalene (0.15 g, 0.622 mmol) and triethylamine (0.09 mL, 0.68 mmol) and 3-nitrobenzoyl chloride (0.127 mL, 0.684 mmol) in acetonitrile (10 mL) with an overnight reflux. The product was purified by silica gel flash chromatography followed by recrystallization from ethyl acetate to yield 0.116 g (47%) of the title product: mp 182°-184° C. Analysis calculated for C22H22N4O3 : C, 67.68; H, 5.68; N, 14.35. Found: C, 67.47; H, 5.64; N, 14.08.

reactant | 7- amino-1-(4-methylol-piperazinyl)-naphthalene | 0.622 mmol, 0.15 g | NC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)CO | C15H19N3O
reactant | triethylamine | 0.68 mmol, 0.09 mL | C(C)N(CC)CC | C6H15N
reactant | 3-nitrobenzoyl chloride | 0.684 mmol, 0.127 mL | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 7-(3-Nitrobenzamido)-1-(4-methyl-1-piperazinyl)-naphthalene | 0.116 g, 47% | [N+](=O)([O-])C=1C=C(C(=O)NC2=CC=C3C=CC=C(C3=C2)N2CCN(CC2)C)C=CC1 | C22H22N4O3
